US03950427
4-(2'-Fluoro-4-biphenylyl)-2-pentanol by method A
A solution of 96.9 gm (0.4 mol) of 3-(2'-fluoro-4-biphenylyl)-butanal (b.p. 112°-114°C at 0.04 mm Hg) in 200 ml of anhydrous ether was added dropwise to a stirred solution of 0.5 mol of methyl magnesium bromide in 200 ml of ether, and the resulting mixture was heated for two hours on a water bath, while stirring. Thereafter, the reaction mixture was cooled, then hydrolized by addition of 50 gm of crushed ice, and subsequently an aqueous 50% ammonium chloride solution was added until the initially formed precipitate dissolved again. The ethereal phase was separated, the aqueous phase was extracted twice with ether, the ethereal extracts were combined with the ether phase, thoroughly washed with water and dried over sodium sulfate, the ether was distilled off, and the residue was distilled in a high vacuum. 55.8 Gm (54% of theory) of a mixture of diastereoisomers of 4-(2'-fluoro-4-biphenylyl)-2-pentanol was obtained as a colorless oil having a boiling point of 122° -124°C at 0.06 mm Hg.

reactant | 3-(2'-fluoro-4-biphenylyl)-butanal | 0.4 mol, 96.9 gm | FC1=C(C=CC=C1)C1=CC=C(C=C1)C(CC=O)C | C16H15FO
reactant | methyl magnesium bromide | 0.5 mol | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 4-(2'-Fluoro-4-biphenylyl)-2-pentanol | FC1=C(C=CC=C1)C1=CC=C(C=C1)C(CC(C)O)C | C17H19FO
